US06514687B1
7-Benzyloxymethyloxycoumarin-3-carboxylic acid succinimidyl ester was prepared by following procedure: A mixture of 7-Hydroxycoumarin-3-carboxylic acid succinimidyl ester, (303 mg, 1 mmol) and dry potassium carbonate (248 mg, 1.5 mmol), in dry dimethylformamide (15 mL) was vigorously stirred at 0° C. for 25 min. Benzylchloromethylether (2.32 mL, 10.0 mmol), was then added quickly to the reaction.

reactant | 7-Hydroxycoumarin-3-carboxylic acid succinimidyl ester | 1 mmol, 303 mg | C1(CCC(N1OC(=O)C=1C(OC2=CC(=CC=C2C1)O)=O)=O)=O | C14H9NO7
reactant | potassium carbonate | 1.5 mmol, 248 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Benzylchloromethylether | 10.0 mmol, 2.32 mL | C(C1=CC=CC=C1)C(Cl)OC(CC1=CC=CC=C1)Cl | C16H16Cl2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 7-Benzyloxymethyloxycoumarin-3-carboxylic acid succinimidyl ester | C1(CCC(N1OC(=O)C=1C(OC2=CC(=CC=C2C1)OCOCC1=CC=CC=C1)=O)=O)=O | C22H17NO8
